US08809529B2
A round bottomed flask was charged with 5 g (33.5 mmol) of 2-isonitrosoacetophenone, 6.7 g (36.8 mmol) of 2-amino-3-phenylpropanenitrile hydrochloride and 100 mL of dry pyridine. The mixture was cooled to −20° C. and 4.6 mL (40.0 mmol) of TiCl4 was added dropwise. The reaction was kept at −20° C. for 30 min and heated to 80° C. for 2.5 hrs. The solvent was evaporated, and the residue taken up in 1 L of DCM. This solution was washed with saturated NaHCO3 and brine. All volatiles were evaporated, and the residue redissolved in ethanol (400 mL). Raney Ni (2.0 g, aqueous suspension) was added, and the reaction allowed to stir for 5 days under 1 atm of hydrogen. The mixture was passed through celite, and volatiles removed. The residue was chromatographed on silica gel (heptanes/DCM) to give 2.5 g (29%) of 2-amino-3-benzyl-5-phenylpyrazine.

reactant | 2-isonitrosoacetophenone | 33.5 mmol, 5 g | C1=CC=C(C=C1)C(=O)/C=N/O | C8H7NO2
reactant | 2-amino-3-phenylpropanenitrile hydrochloride | 36.8 mmol, 6.7 g | Cl.NC(C#N)CC1=CC=CC=C1
catalyst | TiCl4 | 40.0 mmol, 4.6 mL | Cl[Ti](Cl)(Cl)Cl
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 2-amino-3-benzyl-5-phenylpyrazine | 2.5 g, 29% | NC1=NC=C(N=C1CC1=CC=CC=C1)C1=CC=CC=C1 | C17H15N3
